US05143920
3-Butyryl-8-fluoro-4(1H)-quinolone (2.7 g, 12 mmol) and phosphoryl chloride (40 ml) were heated at reflux for 3 hours. Excess phosphoryl chloride was evaporated in vacuo. the residue poured onto ice and neutralised with aqueous ammonia. Filtration and washing with water gave 3-butyryl-4-chloro-8-fluoroquinoline ((1.75 g), m.p. 57°-60°.

reactant | 3-Butyryl-8-fluoro-4(1H)-quinolone | 12 mmol, 2.7 g | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)F | C13H12FNO2
reactant | phosphoryl chloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-butyryl-4-chloro-8-fluoroquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)F | C13H11ClFNO
